US04399282
(Preparation of 7-ethylcamptothecin)
In an aqueous solution of sulfuric acid (15 ml of concentrated sulfuric acid in 30 ml of water) were dissolved camptothecin (1.00 g, 2.87 m-mol), ferrous sulfate heptahydrate (5.60 g, 20.1 m-mol) and 1-propanol (6 ml, 86.1 m-mol). To this solution was added dropwise under ice-cooling and agitation a 30% aqueous solution of hydrogen peroxide (2.1 ml, 20.1 m-mol) in small portions. After addition of the hydrogen peroxide, the agitation was continued for one hour at room temperature. The reaction was diluted with ice water (2 l) and extracted with chloroform (2.5 l). The chloroform layer was dried with anhydrous magnesium sulfate, filtered and evaporated until dryness under reduced pressure. The residue was subjected to column chromatography (chloroform) through silica gel (15 g) to effect separation and purification of the product which was then recrystallized from n-hexane-chloroform whereby 265 mg (25.3%) of the objective compound were obtained as light yellow white needle crystals. M.P. 258°-261° C.

reactant | camptothecin | 1.00 g | CC[C@@]1(C2=C(COC1=O)C(=O)N3CC=4C=C5C=CC=CC5=NC4C3=C2)O | C20H16N2O4
reactant | 1-propanol | 6 ml | C(CC)O | C3H8O
reactant | hydrogen peroxide | 2.1 ml | OO | H2O2
solvent | sulfuric acid | 15 ml | S(O)(O)(=O)=O | H2O4S
product | 7-ethylcamptothecin | CCC1=C2CN3C(=CC4=C(C3=O)COC(=O)[C@@]4(CC)O)C2=NC5=CC=CC=C51 | C22H20N2O4
